US09169259B2
A mixture of 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (100 mg, 0.26 mmol), tert-butyl 4-aminobenzoate (50 mg, 0.26 mmol), 1-methyl-1H-imidazole (85 mg, 1.02 mmol) and EDCI (200 mg, 1.02 mmol) in DMF (3 mL) was stirred for 16 h at room temperature. Ethyl acetate (10 mL) and water (10 mL) were added to the mixture and the organic layer was washed with brine (10 mL×2) then dried over Na2SO4. The residue was concentrated and purified by chromatography (dichloromethane:MeOH=50:1) to give tert-butyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)benzoate (80 mg, 55%) as a yellow solid. LC-MS: [M+H]+, 567, tR=1.820 min

reactant | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.26 mmol, 100 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C20H17N5O4
reactant | tert-butyl 4-aminobenzoate | 0.26 mmol, 50 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | 1-methyl-1H-imidazole | 1.02 mmol, 85 mg | CN1C=NC=C1 | C4H6N2
reactant | EDCI | 1.02 mmol, 200 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)benzoate | 80 mg, 55% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC=C(C(=O)OC(C)(C)C)C=C3)C=CC1)C=CN2 | C31H30N6O5
